US07947834B2
0.3 g of 4-(4-(methanesulfonyl)benzyl)-3,4-dihydro-2H-quinoxaline is dissolved in 10 ml of dichloromethane and 0.1 ml of N-methylmorpholine. 0.118 g of triphosgene is added at 0° C. and then the reaction mixture is left stirring at ambient temperature for four hours. 0.208 g of 4-(pyrrolidin-3-yl)-1H-pyrazole dihydrochloride is subsequently added and the reaction mixture is stirred for eighteen hours. A saturated solution of sodium hydrogencarbonate in water and dichloromethane are added. The aqueous phase is extracted twice with dichloromethane. The organic phases are combined, washed with water and with a saturated aqueous sodium chloride solution and dried over magnesium sulfate and then the solvent is evaporated under reduced pressure. The residue is chromatographed on silica gel, a first time with a gradient of dichloromethane/methanol 1/0 to 85/5 mixture and then a second time with a gradient of dichloromethane/ethyl acetate/methanol 1/0/0 to 70/25/5 mixture. 0.064 g of [4-(4-(methanesulfonyl)benzyl)-3,4-dihydro-2H-quinoxalin-1-yl][3-(1H-pyrazol-4-yl)pyrrolidin-1-yl]methanone is obtained.

reactant | 4-(4-(methanesulfonyl)benzyl)-3,4-dihydro-2H-quinoxaline | 0.3 g | CS(=O)(=O)C1=CC=C(CN2CCNC3=CC=CC=C23)C=C1 | C16H18N2O2S
reactant | triphosgene | 0.118 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 4-(pyrrolidin-3-yl)-1H-pyrazole dihydrochloride | 0.208 g | Cl.Cl.N1CC(CC1)C=1C=NNC1
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | N-methylmorpholine | 0.1 ml | CN1CCOCC1 | C5H11NO
solvent | water | O | H2O
product | [4-(4-(methanesulfonyl)benzyl)-3,4-dihydro-2H-quinoxalin-1-yl][3-(1H-pyrazol-4-yl)pyrrolidin-1-yl]methanone | 0.064 g | CS(=O)(=O)C1=CC=C(CN2CCN(C3=CC=CC=C23)C(=O)N2CC(CC2)C=2C=NNC2)C=C1 | C24H27N5O3S
